US06291530B1
A solution of 3′-allyl-4′-hydroxyacetophenone (3.46 g, 19.66), (1-bromoethyl)-benzene (3.05 mL, 21.63 mmol)), and K2CO3 (4.07 g, 29.49 mmol) in acetone (100 mL) is refluxed 20 hours. The mixture is then filtered and the filtrate is concentrated in vacuo. The residue is dissolved in EtOAc (100 mL) and then washed with H2O (1×100 mL) and brine (1×100 mL), dried over MgSO4, and concentrated in vacuo. Chromatography (5:1 hexane/EtOAc) yields 3′-allyl-4′-(1-phenylethoxy)-acetopbenone. To a solution of sodium hydride (0.54 g, 13.5 mmol) in THF (20 mL) is added a solution of ethyl [2-(diethylamino)-2-oxoethyl]-phosphonate (3.13 g. 12.5 mmol) in THF (20 ml). After stirring this mixture for 5 minutes. at room temperature, a solution of 3′-allyl-4′-(1-phenylethoxy)-acetophenone (2.91 g, 10.4 mmol) in ThF (30 mL) is added, and the solution is refluxed 18 hours. After cooling, the mixture is then quenched with saturated aqueous ammonium chloride (50 mL), and extracted with ethyl acetate (4×75 mL). The combined organic phase is washed with water (1×100 mL) and brine (1×100 mL), dried over MgSO4, concentrated in vacuo, chromatographed (silica, 2:1 EtOAc/hexane) to yield N,N-diethyl (E)-3-[3-allyl 4-(1-phenylethoxy)-phenyl)-but-2-enamide.

reactant | 3′-allyl-4′-hydroxyacetophenone | 3.46 g | C(C=C)C=1C=C(C=CC1O)C(C)=O | C11H12O2
reactant | (1-bromoethyl)-benzene | 21.63 mmol, 3.05 mL | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | K2CO3 | 29.49 mmol, 4.07 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3′-allyl-4′-(1-phenylethoxy)-acetopbenone | C(C=C)C=1C=C(C=CC1OC(C)C1=CC=CC=C1)C(C)=O | C19H20O2
